US08106070B2
N-methylmorpholine (186 mg, 1.84 mmol) was added to an ambient temperature solution of 2-{[(benzyloxy)carbonyl]amino}-3-[4-(5-fluoropyridin-2-yl)phenyl]-2-methylpropanoic acid (150 mg, 0.37 mmol), 1-amino-4,4-dimethylhexan-2-ol (214 mg, 1.48 mmol), 1-[3-(dimethylamino) propyl]-3-ethylcarbodiimide hydrochloride (84 mg, 0.44 mmol), and 1-hydroxybenzotriazole (67 mg, 0.44 mmol) in methylene chloride (5 mL). After stirring at ambient temperature overnight, the reaction mixture was poured into ethyl acetate and washed successively with saturated aqueous sodium bicarbonate and brine, dried (sodium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 40-80% ethyl acetate/hexane afforded benzyl {1-[4-(5-fluoropyridin-2-yl)benzyl]-2-[(2-hydroxy-4,4-dimethylhexyl)amino]-1-methyl-2-oxoethyl}carbamate.

reactant | N-methylmorpholine | 1.84 mmol, 186 mg | CN1CCOCC1 | C5H11NO
reactant | 2-{[(benzyloxy)carbonyl]amino}-3-[4-(5-fluoropyridin-2-yl)phenyl]-2-methylpropanoic acid | 0.37 mmol, 150 mg | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)(CC1=CC=C(C=C1)C1=NC=C(C=C1)F)C | C23H21FN2O4
reactant | 1-amino-4,4-dimethylhexan-2-ol | 1.48 mmol, 214 mg | NCC(CC(CC)(C)C)O | C8H19NO
reactant | 1-[3-(dimethylamino) propyl]-3-ethylcarbodiimide hydrochloride | 0.44 mmol, 84 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.44 mmol, 67 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl {1-[4-(5-fluoropyridin-2-yl)benzyl]-2-[(2-hydroxy-4,4-dimethylhexyl)amino]-1-methyl-2-oxoethyl}carbamate | FC=1C=CC(=NC1)C1=CC=C(CC(C(=O)NCC(CC(CC)(C)C)O)(C)NC(OCC2=CC=CC=C2)=O)C=C1 | C31H38FN3O4
